US08044206B2
To a solution of 520 mg of 2-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidine monohydrochloride in 7 ml of dimethylformamide, 0.13 ml of methyl iodide, 0.58 ml of triethylamine and 572 mg of potassium carbonate were added, followed by stirring at ambient temperature for 12 hours. The reaction mixture was poured into water, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated and the resulting residue was purified by silica gel column chromatography (chloroform-methanol) to give 470 mg of 2-[(E)-2-(2,6-dimethylphenyl)vinyl]-1-methylpiperidine. The product was dissolved in 5 ml of ethanol, and 2.5 ml of 35% hydrogen chloride-ethanol was added to the solution, followed by stirring at ambient temperature for 1 hour. The reaction mixture was evaporated under reduced pressure and the residue was azeotropically distilled with 5 ml of toluene 3 times to give crystals. The collected crystals were recrystallized from ethanol-ethyl acetate to give 395 mg of 2-[(E)-2-(2,6-dimethylphenyl)vinyl]-1-methylpiperidine monohydrochloride.

reactant | 2-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidine monohydrochloride | 520 mg | Cl.CC1=C(C(=CC=C1)C)/C=C/C1NCCCC1
reactant | potassium carbonate | 572 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | methyl iodide | 0.13 ml | CI | CH3I
solvent | triethylamine | 0.58 ml | C(C)N(CC)CC | C6H15N
product | 2-[(E)-2-(2,6-dimethylphenyl)vinyl]-1-methylpiperidine | 470 mg | CC1=C(C(=CC=C1)C)/C=C/C1N(CCCC1)C | C16H23N
